US07355052B2
Stage 6: methyl 4-[(1-(3-aminopropyl)-6-{[bis(3-methylbutyl)amino]carbonyl}-1H-benzimidazol-2-yl)amino]benzoate dihydrochloride
A solution of hydrochloric acid in dioxane (4N, 2 ml) is added to a solution of methyl 4-[(6-{[bis(3-methylbutyl)amino]carbonyl}-1-{3-[(tert-butoxycarbonyl)amino]propyl}-1H-benzimidazol-2-yl)amino]benzoate (180 mg) in ethyl acetate (2 ml). After stirring for 1 hour at a temperature of approximately 20° C., the mixture is concentrated under reduced pressure at 40° C. The solid obtained is washed with ethyl ether and dried (165 mg; 96% yield).

reactant | hydrochloric acid | Cl | ClH
reactant | methyl 4-[(6-{[bis(3-methylbutyl)amino]carbonyl}-1-{3-[(tert-butoxycarbonyl)amino]propyl}-1H-benzimidazol-2-yl)amino]benzoate | 180 mg | CC(CCN(C(=O)C=1C=CC2=C(N(C(=N2)NC2=CC=C(C(=O)OC)C=C2)CCCNC(=O)OC(C)(C)C)C1)CCC(C)C)C | C34H49N5O5
solvent | dioxane | 4N, 2 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | methyl 4-[(1-(3-aminopropyl)-6-{[bis(3-methylbutyl)amino]carbonyl}-1H-benzimidazol-2-yl)amino]benzoate dihydrochloride | 96% yield | Cl.Cl.NCCCN1C(=NC2=C1C=C(C=C2)C(=O)N(CCC(C)C)CCC(C)C)NC2=CC=C(C(=O)OC)C=C2 | InChI=1S/C29H41N5O3.2ClH/c1-20(2)13-17-33(18-14-21(3)4)27(35)23-9-12-25-26(19-23)34(16-6-15-30)29(32-25)31-24-10-7-22(8-11-24)28(36)37-5;;/h7-12,19-21H,6,13-18,30H2,1-5H3,(H,31,32);2*1H
